US03939166
4-Chloro-7-nitro-2,5-bis(trifluoromethyl)benzimidazole is reacted with the sodium salt of 3-hexene-1-thiol to obtain 4-(3-hexenylthio)-7-nitro-2,5-bis(trifluoromethyl)-benzimidazole, m.w., 413.4.

reactant | 4-Chloro-7-nitro-2,5-bis(trifluoromethyl)benzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C9H2ClF6N3O2
reactant | sodium | [Na] | Na
reactant | 3-hexene-1-thiol | C(CC=CCC)S | C6H12S
product | 4-(3-hexenylthio)-7-nitro-2,5-bis(trifluoromethyl)-benzimidazole | C(CC=CCC)SC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C15H13F6N3O2S
